US06414147B1
A mixture of N2-(2-Ethoxypyridin-5-yl)guanine (6.35 g; 23.3 mmol) and N,N-dimethylformamide (70 mL) is cooled to 0° C. and treated dropwise with thionyl chloride (5.6 mL; 76.8 mmol). An additional 15 ml of N,N-dimethylformamide is added and the mixture is heated at 50° C. for 1 h. The reaction mixture is cooled to room temperature and poured slowly into a solution of sodium bicarbonate (8 g) in water (80 mL). The pH is adjusted to 6 with saturated aqueous sodium bicarbonate solution and the mixture is chilled overnight. The precipitate is collected by filtration and washed with water and methanol to give a brown solid which is dissolved in warm concentrated ammonium hydroxide (30 mL) and allowed to stand at room temperature for 3 days. The precipitate is collected by filtration and washed with water and methanol to afford 2-[(2-Ethoxypyrid-5-yl)amino]-6-chloropurine (4.72 g).

reactant | N2-(2-Ethoxypyridin-5-yl)guanine | 23.3 mmol, 6.35 g | C(C)OC1=NC=C(C=C1)NC=1NC(C=2NC=NC2N1)=O | C12H12N6O2
reactant | thionyl chloride | 76.8 mmol, 5.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | 8 g | C([O-])(O)=O.[Na+]
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
solvent | water | 80 mL | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
product | 2-[(2-Ethoxypyrid-5-yl)amino]-6-chloropurine | 4.72 g | C(C)OC1=NC=C(C=C1)NC1=NC(=C2NC=NC2=N1)Cl | C12H11ClN6O
